US08067445B2
Step 1: 2-Bromo-3-methoxy-benzaldehyde
To a solution of 2-bromo-3-hydroxybenzaldehyde (0.5 g, 2.4 mmol) was added potassium carbonate (0.77 g, 5.6 mmol), and the mixture was stirred for 5 minutes. Iodomethane (0.17 mL, 2.7 mmol) was added, and the reaction was stirred at room temperature for 2 hours. The mixture was diluted with H2O (30 mL) and EtOAc (30 mL), and the organic layer was washed with 1N aqueous NaOH, then brine, dried over Na2SO4, decanted, and concentrated. The residue was purified by silica gel chromatography (0-60% EtOAc in hexanes) to give the title compound.

reactant | 2-bromo-3-hydroxybenzaldehyde | 2.4 mmol, 0.5 g | BrC1=C(C=O)C=CC=C1O | C7H5BrO2
reactant | potassium carbonate | 5.6 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 2.7 mmol, 0.17 mL | IC | CH3I
solvent | H2O | 30 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-Bromo-3-methoxy-benzaldehyde | BrC1=C(C=O)C=CC=C1OC | C8H7BrO2
